US06066655
Cyclopentyl 4-(2-chloro-6-fluorophenyl)-1,4-dihydro-5-(1-imidazolylcarbonyl)-2,6-dimethylpyridine-3-carboxylate
13.6 g (83 mmol) of carbonyldiimidazole are added to 33.0 g (83 mmol) of 4-(2-chloro-6-fluorophenyl)-1,4-dihydro-2,6-dimethylpyridine-3,5-dicarboxylic acid monocyclopentyl ester in 350 ml of tetrahydrofuran and the mixture is heated under reflux for 3 hours. Monitoring by thin layer chromatography (silica gel, toluene/ethyl acetate 1:1) shows complete conversion, after which the reaction mixture is concentrated, the residue is taken up in ethyl acetate and the mixture is washed twice with water, dried over sodium sulphate and concentrated again. The target compound precipitates from ether in the form of white crystals of melting point 150° C. Yield: 29.7 g

reactant | carbonyldiimidazole | 83 mmol, 13.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-(2-chloro-6-fluorophenyl)-1,4-dihydro-2,6-dimethylpyridine-3,5-dicarboxylic acid monocyclopentyl ester | 83 mmol, 33.0 g | C1(CCCC1)OC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1F)Cl)C(=O)O)C)C | C20H21ClFNO4
reactant | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
product | Cyclopentyl 4-(2-chloro-6-fluorophenyl)-1,4-dihydro-5-(1-imidazolylcarbonyl)-2,6-dimethylpyridine-3-carboxylate | ClC1=C(C(=CC=C1)F)C1C(=C(NC(=C1C(=O)N1C=NC=C1)C)C)C(=O)OC1CCCC1 | C23H23ClFN3O3
